US04107311
A solution of 29.8 grams (0.2 mole) of N-methyl-o-toluamide in 600 milliliters of dry tetrahydrofuran is treated dropwise with 275 milliliters (0.44 mole) of n-butyl lithium in hexane, while maintaining the temperature at 0° C. to 10° C. After the addition is complete, the mixture is stirred at 0° C. to 10° C. for 2 hours. The cooling bath is removed and a solution of 32.2 grams (0.2 mole) of N-methyl phthalimide in 330 milliliters of tetrahydrofuran is added dropwise. The temperature is maintained at 20° - 25° C. during the addition, afterwhich it is stirred for 11/2 hours at room temperature. The resulting mixture is cooled in ice and quenched by the addition of saturated ammonium chloride. The layers are separated and the organic layer is washed with ammonium chloride solution, dried over magnesium sulfate, filtered and evaporated in vacuo. The resulting oil is crystallized from ethyl acetate to give α-(1-hydroxy-2-methyl-3-oxoisoindolin-1-yl)-N-methyl-o-toluamide, m.p. 175.5 - 177.5.

reactant | N-methyl-o-toluamide | 0.2 mole, 29.8 grams | CNC(=O)C=1C(=CC=CC1)C | C9H11NO
reactant | n-butyl lithium | 0.44 mole, 275 milliliters | C(CCC)[Li]
reactant | N-methyl phthalimide | 0.2 mole, 32.2 grams | CN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO2
solvent | tetrahydrofuran | 600 milliliters | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 330 milliliters | O1CCCC1 | C4H8O
product | α-(1-hydroxy-2-methyl-3-oxoisoindolin-1-yl)-N-methyl-o-toluamide | OC1(N(C(C2=CC=CC=C12)=O)C)CC=1C(=CC=CC1)C(=O)NC | C18H18N2O3
